*$
*//-----------------------------------------------------------------------//
*//   Part No.    : EGPD250ELL472ML25H
*//   Date        : 2018/02/16
*//   Update 	  : 2018/06/15 Added SPICE model (-40deg.C/135deg.C)
*//		  : 2018/11/08 Corrected the SUBCKT
*//   Temperature : 20deg.C/-40deg.C/135deg.C
*//   Model       : RC-ladder 7 Elements Model
*//   Copyright (C) 2018 Nippon Chemi-Con Corporation.
*//   All Rights Reserved.
*//-----------------------------------------------------------------------//

.SUBCKT EGPD250ELL472ML25H_20deg-C 1 2

C1 4 2 2.33e-03
C2 5 2 1.83e-03
C3 6 2 1.24e-04
R1 3 4 2.31e-02
R2 4 5 1.21e-02
R3 5 6 7.33e+00
L1 1 3 7.50e-09

.ENDS

.SUBCKT EGPD250ELL472ML25H_-40deg-C 1 2

C1 4 2 5.22e-05
C2 5 2 6.98e-04
C3 6 2 3.13e-03
R1 3 4 2.03e-01
R2 4 5 2.79e-02
R3 5 6 1.06e-01
L1 1 3 7.50e-09

.ENDS

.SUBCKT EGPD250ELL472ML25H_135deg-C 1 2

C1 4 2 3.84e-03
C2 5 2 7.85e-04
C3 6 2 2.23e-04
R1 3 4 1.22e-02
R2 4 5 8.66e-02
R3 5 6 5.25e+00
L1 1 3 7.50e-09

.ENDS
*$
